Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMH advanced Alzheimer's, chronic HCV, autoimmune 
hepatitis presents following witnessed period of 15min 
unresponsiveness and myoclonic jerking.  
 Pt had returned from PCP with niece this morning, had gone to 
toilet, niece found her sitting with her eyes rolled back 
followed by steady-beat jerking of all extremities. Unknown 
whether incontinent, but pt's mental status post-incident was 
below baseline per niece. No head strike.  
 No prior history of seizures. No current URI, pre-event N/V, 
diarrhea, change in fluid intake. Pt's niece endorses long-term 
cough.  
 In the ED, initial exam notable for:  
 PE: 98.9, 85, 144/55, 20, 97%/RA, FSG 213  
 Gen: AOx2, no insight into acute presentation, in no apparent 
pain  
 HEENT: NC/AT, slight anisocoria ___ cataracts), CN2-12 intact 
on exam, EOMI, MMM  
 Cards: RRR, no m/r/g  
 Resp: CTAB, no adventitious sounds  
 Abd: NT/ND, no rebound or guarding, no masses or HSM  
 Ext: WWP, trace periph edema at lower shins  
 - Labs were significant for creat 1.3 (Baseline 0.9)  
 - Imaging revealed CT head without contrast that showed 3.5 x 
3.0 x 2.8 cm hyperdense mass centered in the anterior 
interhemispheric fissure, significantly increased in size since 
___  
 - The patient was given 1L NS and 5mg IV metop  
 Neurology was consulted and recommended monitoring on telemetry 
with 24h EEG and f/u with MRI brain with contrast  
 HCP states she does not want surgery involved in care.  
 Of note, initial EKG in sinus rhythm and repeat EKG in afib.  
 Discussed with neurology, given new onset afib, would like 
patient admitted to medicine overnight for telemetry and further 
monitoring with neurology following.  
 Vitals prior to transfer were:  
 Today 19:03 0 92 150/77 20 99% RA  
 Upon arrival to the floor, the patient was without complaint.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
- Alzheimer's; ADL impaired in preparing food, remembering to 
bathe, recalling faces.  Lives at home but with extensive ___ 
and family support.  
- HCV, chronic, low viral load (last in OMR ___, 15 million 
copies)  
- Autoimmune hepatitis  
- HTN
 
Social History:
___
Family History:
Unable to obtain from patient secondary to memory deficits  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

Vitals: Tm ___, Tc 100.7F, BP 159/61, HR 86, R 22, SpO2 97%/RA, 
69.1 kg  
 General: alert, pleasant, comfortable, in no distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, ? possible 
diastolic murmur, difficult to appreciate over breathing  
 Lungs: faint bibasilar crackles  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: oriented to name, hospital (___), but not to date, face 
symmetric, tongue protrudes midline, cheek puff & eye squeeze 
strong & equal, ___ upper extremity extension/flexion, gait not 
assessed 

DISCHARGE PHYSICAL EXAM:
========================

Vitals: 98.3 130-170/60-70 60-70 18 94% RA
General: alert, pleasant, comfortable, in no distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, EEG 
electrodes in place  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, ? possible 
diastolic murmur, difficult to appreciate over breathing  
Lungs: faint bibasilar crackles  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: oriented to name, hospital (but says ___, but not to 
date, face symmetric, tongue protrudes midline, cheek puff & eye 
squeeze strong & equal, ___ upper extremity extension/flexion, 
gait not assessed  
 
Pertinent Results:
PERTINENT LABS:
===============

___ 06:57AM BLOOD WBC-12.2*# RBC-4.51 Hgb-12.8 Hct-40.3 
MCV-89 MCH-28.4 MCHC-31.8* RDW-14.6 RDWSD-47.4* Plt ___
___ 03:16PM BLOOD Neuts-81.0* Lymphs-12.5* Monos-5.7 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-6.53* AbsLymp-1.01* 
AbsMono-0.46 AbsEos-0.01* AbsBaso-0.02
___ 09:57AM BLOOD WBC-8.4 RBC-4.69 Hgb-13.3 Hct-41.7 MCV-89 
MCH-28.4 MCHC-31.9* RDW-14.6 RDWSD-46.6* Plt ___
___ 03:16PM BLOOD Glucose-143* UreaN-21* Creat-1.3* Na-138 
K-4.5 Cl-99 HCO3-25 AnGap-19
___ 09:57AM BLOOD Glucose-143* UreaN-17 Creat-0.9 Na-137 
K-3.4 Cl-101 HCO3-23 AnGap-16
___ 03:16PM BLOOD ALT-16 AST-26 CK(CPK)-58 AlkPhos-57 
TotBili-0.4
___ 03:16PM BLOOD cTropnT-<0.01
___ 03:16PM BLOOD Albumin-4.3 Calcium-9.9 Phos-3.2 Mg-2.5
___ 03:16PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 03:22PM BLOOD Lactate-3.1*
___ 10:24AM BLOOD Lactate-1.8
___ 04:43PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:43PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:43PM URINE RBC-1 WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 04:43PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

PERTINENT IMAGING:
==================

MRI ___:
IMPRESSION: 
1. Significant interval increase size of an extra-axial frontal 
lobe 
parafalcine lesion, compatible with a meningioma.  Given the 
rapid growth in size am prominent peripheral FLAIR hyperintense 
signal, this could represent an atypical meningioma. 
2. The lesion abuts the superior sagittal sinus without evidence 
of invasion. 
3. No additional lesions are identified. 

ECG ___:  TRACING #4
Sinus arrhythmia. Compared to tracing #3 atrial and ventricular 
premature 
beats are now not seen. T waves are probably improved. 
Otherwise, no change. 

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
76 186 96 422 450   63 -49 48 
 
ECG ___:  TRACING #3 
Sinus rhythm with atrial and ventricular premature beats. 
Compared to the 
previous tracing of ___ the rate is now slower. There is 
less artifact. There is now more prominent T wave flattening in 
the precordial leads. 

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
79 196 96 400 433   53 -45 51 
 
ECG ___:  TRACING #2 
Baseline artifact. Probably sinus tachycardia with atrial 
premature beats and a single ventricular premature beat. Left 
anterior fascicular block. Consider voltage for left ventricular 
hypertrophy in leads I and III. Compared to the previous tracing 
heart rate is increased. Atrial premature beats and ventricular 
premature beats are new. Clinical correlation is suggested.  

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
118 171 93 ___   44 -61 88 
 
ECG ___:   TRACING #1 
Sinus rhythm. Left axis deviation. Consider left anterior 
fascicular block.  Late R wave progression may be related to 
left anterior fascicular block.  T wave abnormalities. No 
previous tracing available for comparison. 

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
81 182 92 374 410   46 -51 20 
 
EEG ___:
IMPRESSION: This is an abnormal continuous video EEG study as it 
showed the presence of continuous background disorganization 
over the left hemisphere together with continuous focal mixed 
frequency slowing in the left posterior quadrant. These findings 
are indicative of focal cerebral dysfunction which is 
non-specific but may be due to a structural lesion in broadly 
distributed over the left temporal/occipital regions. There were 
no epileptiform discharges or electrographic seizures. There 
were no pushbutton activations. 

CT Head ___:
IMPRESSION: 
1. Moderately motion limited exam. 
2. No acute intracranial hemorrhage or large vascular 
territorial infarction. 
3. 3.5 x 3.0 x 2.8 cm hyperdense mass centered in the anterior 
interhemispheric fissure, significantly increased in size since 
___.  MRI is recommended for further evaluation. 
4. Chronic small vessel ischemic disease. 

PERTINENT MICRO:
================

___ 4:43 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

___:  Blood culture pending

 
Brief Hospital Course:
___ with a PMH of severe Alzheimer's, HCV infection and history 
of autoimmune hepatitis, who presented with an unresponspive 
episode/syncope, concerning for seizure given appearance of 
large brain mass on head CT, now with MRI concerning for 
atypical meningioma.  

ACTIVE ISSUES:
==============

# Atypical meningioma: 
Patient presented with an episode of syncope that most likely 
represented seizure given brain mass on MRI (per niece, did not 
actually occur on the toilet, episode occurred while patient 
seated at dinner table, making vasovagal syncope less likely).  
Cardiogenic causes also less likely, given her atrial 
fibrillation has been stable without any rate control agents 
(unclear if this is new).  No evidence of infection as 
predisposing factor.  Patient was not orthostatic after 2L IVF.  
She did not have further syncopal or presyncopal symptoms.  MRI 
brain was performed that revealed a 3 cm mass in the 
interhemispheric fissue with characteristics suggestive of an 
atypical meningioma.  ___ discussed with niece; patient would 
not want surgical intervention.  She was started Keppra 500 mg 
PO BID for seizure prophylaxis and discharged with outpatient 
neuro follow-up. 

# A. fib: 
Paroxysmal, newly discovered in ED on this admission. CHADSVASC 
score 4, so anticoagulation would be warranted; however, 
decision was made not to anticoagulate given age, risk of fall, 
and intracranial lesion.  Location makes saggital sinus 
vulnerable to compression, increasing risk for venous bleed.  
Niece in agreement with decision.

# Fever, leukocytosis: 
Patient with new T 101 and WBC count of 12 on admission, 
resolved today.  Infectious ROS entirely negative, and lab work 
up unrevealing (UA clear, LFTs NWL, CXR clear).  It is possible 
that she aspirated during her syncopal event.

# ___: 
Cr 1.3 on admission, returned to her baseline of 0.9 with 
hydration.  Most likely prerenal given presence of hyaline casts 
and resolution with IVF.

CHRONIC ISSUES:
===============

# Autoimmune hepatitis  
The patient was continued on her home prednisone  

# Hypertension  
The patient was continued on her home nifedipine  

# Alzheimer's dementia
The patient's mental status remained at her baseline throughout 
this hospitalization.  She was Continued on her home donepezil 
and memantine.  

# CODE STATUS: DNR, DNI (confirmed)
# CONTACT:  ___ ___

TRANSITIONAL ISSUES:
====================
- Patient with a ~3 cm mass arising from the intrahemispheric 
fissue with imaging appearance consistent with an atypical 
meningioma. In goals of care discussion with the patient's 
niece, surgical management was deferred. She was started on 
Keppra 500 mg PO BID for seizure prophylaxis and will follow-up 
with her neurologist as an outpatient
- Patient diagnosed with new atrial fibrillation on this 
admission. She did not require any standing nodal agents for 
rate control. Regarding anticoagulation, it would be indicated 
given her high CHADS2-VASC score; however, given the location of 
her atypical meningioma, advanced dementia, and limited life 
expectancy, anticoagulation was deferred. She was continued on 
her home aspirin 81 mg PO QD.
- If she has uncontrolled heart rates in the future, consider 
starting a low-dose long-acting beta blocker, such as Metoprolol 
succinate 12.5-25 mg PO QD.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Memantine 21 mg PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. Donepezil 10 mg PO QHS 
6. Aspirin 81 mg PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Donepezil 10 mg PO QHS 
3. Memantine 21 mg PO DAILY 
4. Multivitamins W/minerals 1 TAB PO DAILY 
5. NIFEdipine CR 30 mg PO DAILY 
6. PredniSONE 5 mg PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. LeVETiracetam 500 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Seizure, atypical meningioma, atrial fibrillation 
 
Secondary: Alzheimer's dementia, hepatitis C virus infection, 
hypertension, autoimmune hepatitis 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital after having 
what was most likely a seizure.  We did a scan of your head and 
found a benign tumor called an atypical meningioma.  This may 
increase your risk for seizure, so we are starting you on an 
antiseizure medication called Keppra, which you will continue to 
take twice daily.  This benign tumor does not require any 
surgery to remove or chemotherapy.

While you were here, you also had evidence of a fast, abnormal 
heart rhythm called atrial fibrillation.  This can increase the 
risk of stroke; however, the risks of giving you a blood thinner 
to decrease the risk of stroke probably outweigh the benefits, 
so in discussion with your neurologists, we opted not to start 
you on anticoagulation.  Your neurologist can re-evaluate this 
decision as an outpatient in case you or your neice would like 
to revisit this issue.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___